US06083955
Sodium (1.031 g) was dissolved in 20.130 g of 1,3-propanediol and 2.091 g of N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide was added thereto with stirring at room temperature. The reaction mixture was stirred at room temperature for 50 minutes and then at 60° C. for 50 minutes and poured into a mixture of 1N hydrochloric acid and ice. This was extracted with ethyl acetate and the ethyl acetate layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the resulting residue was purified by a silica gel column chromatography (chloroform-methanol=100:1 to 20:1). The resulting syrup was crystallized in ether and collected by filtration to give 1.817 g of N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide.

reactant | Sodium | 1.031 g | [Na] | Na
reactant | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 2.091 g | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C23H18ClN5O4S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 1,3-propanediol | 20.130 g | C(CCO)O | C3H8O2
product | N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 1.817 g | OCCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C26H25N5O6S
